US07582760B2
A solution of benzyl-(3-benzyloxy-2-nitro-phenyl)-amine (8.116 g, 24.3 mmol) in 500 mL ethanol was added to a solution of sodium thiosulfite (29.0 g, 162.8 g.) in 350 mL water at 100° C. while stirring. The reaction mixture was heated for 30 minutes at this temperature, and then cooled and concentrated in vacuo. The off-white solid which precipitates was filtered and dried overnight under a stream of nitrogen to give 6.77 g (22.24 mmol, 91.5%) of N*1*-Benzyl-3-benzyloxy-benzene-1,2-diamine. MS: 305 (M+H)+.

reactant | benzyl-(3-benzyloxy-2-nitro-phenyl)-amine | 24.3 mmol, 8.116 g | C(C1=CC=CC=C1)NC1=C(C(=CC=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C20H18N2O3
reactant | sodium thiosulfite | 29.0 g | S(=S)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 350 mL | O | H2O
product | N*1*-Benzyl-3-benzyloxy-benzene-1,2-diamine | 22.24 mmol, 6.77 g, 91.5% | C(C1=CC=CC=C1)NC=1C(=C(C=CC1)OCC1=CC=CC=C1)N | C20H20N2O
